US08222416B2
To a stirred solution of 2-bromoethanol (25 g, 200 mmol) and imidazole (41 g, 600 mmol) in dichloromethane (300 mL) was added tert-butyldiphenylchlorosilane (55 mL, 210 mmol) at room temperature and the mixture was stirred for 24 h. The resulting mixture was poured into ice-water, extracted with dichloromethane (2×250 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, hexanes) afforded (2-bromo-ethoxy)-tert-butyl-diphenyl-silane (60 g, 83%) as a colorless oil.

reactant | 2-bromoethanol | 200 mmol, 25 g | BrCCO | C2H5BrO
reactant | imidazole | 600 mmol, 41 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylchlorosilane | 210 mmol, 55 mL | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | (2-bromo-ethoxy)-tert-butyl-diphenyl-silane | 60 g, 83% | BrCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C18H23BrOSi
